US05972965
To a solution of 2-(4,5-diphenyloxazol-2-yl)pyrrolidine (0.6 g) and 5-tert-butyldiphenylsilyloxy-2-oxo-1,2,3,4-tetrahydronaphthalene (0.5 g) in a mixture of methanol (10 ml) and acetic acid (2 ml) was added NaBH3CN (250 mg) at room temperature. After being stirred for 2 hours at the same temperature, the mixture was poured into the mixture of ethyl acetate and water. The organic layer was washed with water and brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by chromatography on silica gel to afford 2-[2-(4,5-diphenyloxazol-2-yl)pyrrolidin-1-yl]-5-tert-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalen (0.84 g). MS (m/z): 676 (M+) IR (Neat): 1580 cm-1NMR (CDCl3, δ): 1.08 (9H, s), 1.5-2.4 (6H, m), 2.6-3.3 (6H, m), 4.42 (1H, m), 6.10 (1H, m), 6.4-6.7 (2H, m), 7.2-7.8 (20H, m)

reactant | 2-(4,5-diphenyloxazol-2-yl)pyrrolidine | 0.6 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1NCCC1 | C19H18N2O
reactant | 5-tert-butyldiphenylsilyloxy-2-oxo-1,2,3,4-tetrahydronaphthalene | 0.5 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C2CCC(CC2=CC=C1)=O | C26H28O2Si
reactant | NaBH3CN | 250 mg | [BH3-]C#N.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-[2-(4,5-diphenyloxazol-2-yl)pyrrolidin-1-yl]-5-tert-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalen | 0.84 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1N(CCC1)C1CC2=CC=CC(=C2CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C45H46N2O2Si
